US08022062B2
4-Allyloxy-3-bromo-benzonitrile:
Mix 3-bromo-4-hydroxy-benzonitrile (1.520 g, 8.0 mmol), alkyl bromide (1.161 g, 9.6 mmol), potassium carbonate (3.317 g, 24 mmol) and potassium iodide (133 mg, 0.1 mmol) in acetone (80 mL). Heat the mixture to reflux for 12 h. Cool to ambient temperature, add EtOAc, wash the organic layer with water, and extract the aqueous layer twice with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:8) to obtain the desired intermediate.

reactant | 3-bromo-4-hydroxy-benzonitrile | 8.0 mmol, 1.520 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | potassium carbonate | 24 mmol, 3.317 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 mmol, 133 mg | [I-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 4-Allyloxy-3-bromo-benzonitrile | C(C=C)OC1=C(C=C(C#N)C=C1)Br | C10H8BrNO
